US05578627
To a solution of 0.5 g of 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-1,2-benzoisoxazole in 5 ml of tetrahydrofuran are added 0.154 g of 3-hydroxypyridine, 0.553 g of triphenylphosphine and 0.33 ml of diethyl azodicarboxylate at room temperature with ice-cooling, and they are subjected to reaction at room temperature for eight hours. The solvent is removed from the reaction mixture by distillation under reduced pressure, and the residue obtained is purified by a silica gel column chromatography [eluant:n-hexane:ethyl acetate=4:1], to obtain 0.32 g of oily 3-[2-tert-butoxycarbonylamino-3-(3-pyridyloxy)propoxy]-1,2-benzoisoxazole.

reactant | 3-(2-tert-butoxycarbonylamino-3-hydroxypropoxy)-1,2-benzoisoxazole | 0.5 g | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=CC=C2)CO | C15H20N2O5
reactant | 3-hydroxypyridine | 0.154 g | OC=1C=NC=CC1 | C5H5NO
reactant | triphenylphosphine | 0.553 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.33 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-[2-tert-butoxycarbonylamino-3-(3-pyridyloxy)propoxy]-1,2-benzoisoxazole | 0.32 g | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=CC=C2)COC=2C=NC=CC2 | C20H23N3O5
